US05641785
10.1. 7-Methoxy-3,3a,4,5-tetrahydro-1H-oxazolo[3,4-a]quinolin-1-one
To a solution of 10.9 g (41.4 mmol) of ethyl 2-formyl-6-methoxy-1,2,3,4-tetrahydroquinoline-1-carboxylate in 100 ml of methanol, cooled to 0° C., are added portionwise 2.2 g (41.4 mmol) of potassium borohydride. The medium is stirred for 1 h and then hydrolyzed, diluted with water and extracted with diethyl ether. The organic phase is then washed with water and dried over sodium sulphate, and the solvent is evaporated off under reduced pressure. The oil obtained is redissolved in 90 ml of toluene, the solution is heated to reflux in order to remove traces of water, and a catalytic amount of 10% sodium methoxide in methanol is then added at 90° C. The mixture is again heated to reflux in order to remove the ethanol formed, followed by evaporation of the solvent. The residue is taken up in ethyl acetate and washed with water, then the organic phase is dried over sodium sulphate and concentrated under reduced pressure. After chromatography on a column of silica with a 4/1 mixture of heptane and ethyl acetate, 5.0 g of product are obtained.

reactant | ethyl 2-formyl-6-methoxy-1,2,3,4-tetrahydroquinoline-1-carboxylate | 41.4 mmol, 10.9 g | C(=O)C1N(C2=CC=C(C=C2CC1)OC)C(=O)OCC | C14H17NO4
reactant | potassium borohydride | 41.4 mmol, 2.2 g | [BH4-].[K+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | O | H2O
solvent | toluene | 90 ml | C1(=CC=CC=C1)C | C7H8
product | 7-Methoxy-3,3a,4,5-tetrahydro-1H-oxazolo[3,4-a]quinolin-1-one | COC=1C=C2CCC3N(C2=CC1)C(OC3)=O | C12H13NO3
